US08008317B2
6-hydroxynicotinaldehyde (17-2)
A stirred solution of 6-methoxy-3-pyridinecarboxaldehyde (0.45 g, 3.3 mMol) in 3N HCl (10 mL) was heated to 100° C. for 30 minutes. Upon cooling, needle-like crystals developed. The crystals were collected via filtration to yield 17-2. 1H-NMR (CD3OD) δ 9.64 (s, 1H), δ 8.17-8.16 (m, 1H), S 7.96-7.94 (m, 1H), δ 6.58 (d, 1H).

reactant | 6-methoxy-3-pyridinecarboxaldehyde | 3.3 mMol, 0.45 g | COC1=CC=C(C=N1)C=O | C7H7NO2
solvent | HCl | 3N, 10 mL | Cl | ClH
product | 6-hydroxynicotinaldehyde | OC1=NC=C(C=O)C=C1 | C6H5NO2
